US06531502B1
4-(3-Dimethylaminopropyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (600 mg, 2.5 mmol) was formylated using POCl3 and DMF to give 645 mg (96%) of 4-(3-dimethylamino-propyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester.

reactant | 4-(3-Dimethylaminopropyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 2.5 mmol, 600 mg | C(C)OC(=O)C1=C(NC=C1CCCN(C)C)C | C13H22N2O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
product | 4-(3-dimethylamino-propyl)-5-formyl-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 645 mg, 96% | C(C)OC(=O)C1=C(NC(=C1CCCN(C)C)C=O)C | C14H22N2O3
